US06506901B2
Step A: 1-Isopropylpiperidine-4-carboxamide
Prepared from isonipecotamide (2.0 g, 15.6 mmol), 2-iodopropane (3.10 mL, 31.2 mmol) of potassium carbonate and (2.15 g, 5.6 mmol) according to the procedure used for Example 8 (Step A) to give 2.5 g of the title compound.

reactant | isonipecotamide | 15.6 mmol, 2.0 g | N1CCC(C(=O)N)CC1 | C6H12N2O
reactant | 2-iodopropane | 31.2 mmol, 3.10 mL | IC(C)C | C3H7I
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 1-Isopropylpiperidine-4-carboxamide | 2.5 g | C(C)(C)N1CCC(CC1)C(=O)N | C9H18N2O
